US08470841B2
26a 5-Bromo-2-(6-chloropyridin-3-yloxy)pyrimidine
6-Chloropyridin-3-ol (670 mg, 5.17 mmol) and 5-bromo-2-chloropyrimidine (1.0 g, 5.17 mmol) were reacted in analogy to example 2c. Yield: 1.02 g (69%), M+H+: 285.95.

reactant | 6-Chloropyridin-3-ol | 5.17 mmol, 670 mg | ClC1=CC=C(C=N1)O | C5H4ClNO
reactant | 5-bromo-2-chloropyrimidine | 5.17 mmol, 1.0 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
product | 5-Bromo-2-(6-chloropyridin-3-yloxy)pyrimidine | BrC=1C=NC(=NC1)OC=1C=NC(=CC1)Cl | C9H5BrClN3O
